US05438141
3-(Hydroxymethyl)benzaldehyde
To isophthalaldehyde (200 g) in absolute ethanol (3 L) at 0° C. was added NaBH4 (15.6 g). After 1 hour at O° C. the reaction mixture was poured onto 25% aqueous ammonium acetate (2 L). The ethanol was evaporated and the product was extracted with EtOAc. The resulting mixture was purified by flash chromatography (30% EtOAc/Hexane) to provide 94 g of the title product.

reactant | isophthalaldehyde | 200 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
reactant | NaBH4 | 15.6 g | [BH4-].[Na+]
reactant | ammonium acetate | 2 L | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 3 L | C(C)O | C2H6O
product | 3-(Hydroxymethyl)benzaldehyde | 94 g | OCC=1C=C(C=O)C=CC1 | C8H8O2
